US07211568B2
(9S)-9-Dihydroerythromycin A.
To a solution of erythromycin A (22.0 g, 30 mmol) in THF (200 mL) cooled to −10° C. was added NaBH4 (2.27 g, 60 mmol) in small portions. The mixture was then allowed to stir at 0° C. for 3 h before the reaction was quenched with water. After evaporation of the majority of the solvent, dilute NaHCO3 solution was added, the mixture was extracted three times with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4. The crude product was purified by silica gel chromatography using 2:1 hexane-acetone with 1% Et3N to give pure product (12.8 g, 58% yield). m/z: 736.5 (MH); 13C-NMR (CDCl3): 177.00, 103.21, 96.32, 84.20, 83.10, 79.23, 77.72, 77.63, 74.99, 74.48, 72.66, 70.75, 70.69, 69.29, 66.09, 65.02, 49.32, 45.52, 41.73, 40.32 (2×), 36.91, 34.84, 34.23, 31.97, 28.81, 25.25, 21.68, 21.51, 21.18, 20.06, 18.12, 16.50, 15.06, 14.80, 10.81, 9.36.

reactant | erythromycin A | 30 mmol, 22.0 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | NaBH4 | 60 mmol, 2.27 g | [BH4-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (9S)-9-Dihydroerythromycin A | 12.8 g, 58% yield | CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)O)C)O)(C)O | C37H69NO13
